US08729068B2
A mixture of 300 mg of methyl 4-{2-[4-({[2-({3-[(4-acetylpiperazin-1-yl)sulfonyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate, 1.5 mL of a 1.0 M aqueous sodium hydroxide solution, and 3.0 mL of ethanol was heated and refluxed overnight. The reaction mixture was concentrated under reduced pressure and the residue was neutralized with 1.0 M hydrochloric acid. Then, the precipitate was collected by filtration and the obtained solid was purified by silica gel column chromatography (methanol-chloroform) to obtain 116 mg of 4-{2-[4-({[2-({3-[(4-acetylpiperazin-1-yl)sulfonyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid as a colorless crystal.

reactant | methyl 4-{2-[4-({[2-({3-[(4-acetylpiperazin-1-yl)sulfonyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 300 mg | C(C)(=O)N1CCN(CC1)S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C38H40N4O7S2
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 4-{2-[4-({[2-({3-[(4-acetylpiperazin-1-yl)sulfonyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid | 116 mg | C(C)(=O)N1CCN(CC1)S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1 | C37H38N4O7S2
